US04064246
A mixture of 14 g of 4-(3-acetoxyphenyl)-1-isopropyl-7-methyl-2(1H)-quinazolinone, 20 g of N-bromosuccinimide, and 600 ml of carbon tetrachloride is irradiated with infrared light for 15 minutes in a 1000 ml flat-bottom flask while stirring and refluxing. After cooling to room temperature with an ice bath, the mixture is washed successively with 500 ml and 100 ml of water in a 2 liter separatory funnel. Each water phase is washed with an additional 100 ml of carbon tetrachloride. The combined carbon tetrachloride phase is evaporated to dryness. The resulting residue is dissolved in 200 ml of methanol and evaporated to dryness to obtain crude 4-(3-acetoxyphenyl)-7-bromomethyl-1-isopropyl-2(1H)-quinazolinone. A thin-layer chromatogram on Silica Gel GE with ethyl acetate as the mobile phase shows the presence of the desired monobrominated product and dibrominated by-product.

reactant | 4-(3-acetoxyphenyl)-1-isopropyl-7-methyl-2(1H)-quinazolinone | 14 g | C(C)(=O)OC=1C=C(C=CC1)C1=NC(N(C2=CC(=CC=C12)C)C(C)C)=O | C20H20N2O3
reactant | N-bromosuccinimide | 20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(3-acetoxyphenyl)-7-bromomethyl-1-isopropyl-2(1H)-quinazolinone | C(C)(=O)OC=1C=C(C=CC1)C1=NC(N(C2=CC(=CC=C12)CBr)C(C)C)=O | C20H19BrN2O3
